US05324735
4.45 gm (14.3 mmol) of ethyl 6,7-difluoro-1,4-dihydro-1-(1-hydroxyprop-2-yl)-4-oxoquinoline-3-carboxylate and 5.10 gm (42.9 mmol) of thionyl chloride were dissolved into 130 ml of chloroform for reaction with heating under refluxing for 1 hour. After cooling, the solvent was evaporated under reduced pressure, the residue was purified by silica gel column chromatography (chloroform:methanol=100:1), and recrystallized from ethanol to obtain 3.53 gm of colorless, needlelike crystals of ethyl 1-(1-chloroprop-2-yl)-6,7-difluoro-1,4-dihydro-4-oxoquinoline-3-carboxylate:

reactant | ethyl 6,7-difluoro-1,4-dihydro-1-(1-hydroxyprop-2-yl)-4-oxoquinoline-3-carboxylate | 14.3 mmol, 4.45 gm | FC=1C=C2C(C(=CN(C2=CC1F)C(CO)C)C(=O)OCC)=O | C15H15F2NO4
reactant | thionyl chloride | 42.9 mmol, 5.10 gm | S(=O)(Cl)Cl | Cl2OS
solvent | chloroform | 130 ml | C(Cl)(Cl)Cl | CHCl3
product | ethyl 1-(1-chloroprop-2-yl)-6,7-difluoro-1,4-dihydro-4-oxoquinoline-3-carboxylate | ClCC(C)N1C=C(C(C2=CC(=C(C=C12)F)F)=O)C(=O)OCC | C15H14ClF2NO3
